US06734186B1
Benzyl 2-{[1-({[3-(methylamino)-3-oxopropyl]amino}carbonyl)cyclopentyl]methyl}-4-phenylbutanoate
1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (122 mg, 0.64 mmol), 1-hydroxybenzotriazole hydrate (86 mg, 0.64 mmol) and 4-methylmorpholine (173 μl, 1.59 mmol) were added sequentially to a cooled solution of 1-{2-[(benzyloxy)carbonyl]4-phenylbutyl}cyclopentane-carboxylic acid (EP 274234) (202 mg, 0.53 mmol) in N,N-dimethylformamide (5 ml) at room temperature, followed by the amine hydrochloride from preparation 6 (6/23) (146 mg, 1.06 mmol), and the reaction stirred at 90° C. for 18 hours. The cooled solution was concentrated under reduced pressure and the residue partitioned between water (20 ml) and ethyl acetate (100 ml). The layers were separated, the organic phase washed with water (3×30 ml), brine (25 ml) dried (MgSO4), and evaporated under reduced pressure to give a clear oil. The crude product was purified by column chromatography on silica gel using dichloromethane:methanol (98:2) as eluant to afford the title compound as a colourless oil, 162 mg, 67%; 1H NMR (CDCl3, 400 MHz) δ: 1.38-1.53 (m, 2H), 1.53-1.96 (m, 8H), 2.02 (m, 2H), 2.27 (t, 2H), 2.46 (m, 3H), 2.76 (d, 3H), 3.44 (m, 2H), 5.13 (s, 2H), 5.79 (bs, 1H), 6.38 (m, 1H), 7.06 (d, 2H), 7.18 (m, 1H), 7.22 (m, 2H), 7.38 (m, 5H); LRMS: m/z 465.5 (MH+).

reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.64 mmol, 122 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 0.64 mmol, 86 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 4-methylmorpholine | 1.59 mmol, 173 μl | CN1CCOCC1 | C5H11NO
reactant | 1-{2-[(benzyloxy)carbonyl]4-phenylbutyl}cyclopentane-carboxylic acid | 0.53 mmol, 202 mg | C(C1=CC=CC=C1)OC(=O)C(CC1(CCCC1)C(=O)O)CCC1=CC=CC=C1 | C24H28O4
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | Benzyl 2-{[1-({[3-(methylamino)-3-oxopropyl]amino}carbonyl)cyclopentyl]methyl}-4-phenylbutanoate | CNC(CCNC(=O)C1(CCCC1)CC(C(=O)OCC1=CC=CC=C1)CCC1=CC=CC=C1)=O | C28H36N2O4
